### PR TITLE
feat(Algebra/IndZariski): fill `bijectiveOnStalks_algebraMap` and `of_colimitPresentation` sorries

### PR DESCRIPTION
**Pull request by chrisflav**
## Summary

Closes the two remaining `sorry`s in `Proetale/Algebra/IndZariski.lean` for ind-Zariski-related stalk bijectivity statements.

* Adds the helper `Algebra.IndZariski.bijectiveOnStalks_of_colimitPresentation`:
  if `S = colim_i A_i` as `R`-algebras and each `R → A_i` is bijective on stalks,
  then so is `R → S`.
* Uses it to close `Algebra.IndZariski.bijectiveOnStalks_algebraMap`
  (Stacks 096T): every ind-Zariski algebra map identifies local rings.
* Closes `Algebra.IndZariski.of_colimitPresentation`: a filtered colimit of
  ind-Zariski algebras is ind-Zariski, via `iff_ind_isLocalIso` and
  `ObjectProperty.ind_ind` applied to `CommAlgCat.isLocalIso_le_isFinitelyPresentable`.
* Adds `\leanok` to the proof block of the corresponding blueprint lemma
  `thm:ind-Zariski-identifies-local-rings`.

The code is extracted from the `archon` branch.

## Test plan
- [x] `lake build` succeeds on the full project.

### CODE REVIEW

File: Proetale/Algebra/IndZariski.lean [hunk 1]
```diff
@@ -293,14 +293,127 @@ instance (priority := 100) _root_.Module.Flat.of_indZariski [Algebra.IndZariski
...
   exact @Algebra.IsLocalIso.flat _ _ _ _ _ (h i)
 
+/-- If `S` is a filtered colimit of `R`-algebras `Aᵢ` and each algebra map
+`R → Aᵢ` is bijective on stalks, then so is `R → S`. -/
+lemma bijectiveOnStalks_of_colimitPresentation
+    {R S : Type u} [CommRing R] [CommRing S] [Algebra R S]
+    {ι : Type u} [SmallCategory ι] [IsFiltered ι]
+    (P : ColimitPresentation ι (CommAlgCat.of R S))
+    (h : ∀ i, (algebraMap R (P.diag.obj i)).BijectiveOnStalks) :
+    (algebraMap R S).BijectiveOnStalks := by
```
Comment (chrisflav) [inline Proetale/Algebra/IndZariski.lean]: Use `Algebra.BijectiveOnStalks` instead.

**Comment by chrisflav** [comment]
orchestra polish

File: Proetale/Algebra/IndZariski.lean [hunk 2]
```diff
@@ -293,14 +293,121 @@ instance (priority := 100) _root_.Module.Flat.of_indZariski [Algebra.IndZariski
...
+`R → Aᵢ` is bijective on stalks, then so is `R → S`. -/
+lemma bijectiveOnStalks_of_colimitPresentation {ι : Type u} [SmallCategory ι] [IsFiltered ι]
+    (P : ColimitPresentation ι (CommAlgCat.of R S))
+    (h : ∀ i, (algebraMap R (P.diag.obj i)).BijectiveOnStalks) :
+    (algebraMap R S).BijectiveOnStalks := by
+  have hcolim : IsColimit ((forget (CommAlgCat.{u} R)).mapCocone P.cocone) :=
+    isColimitOfPreserves (forget (CommAlgCat.{u} R)) P.isColimit
+  have hcomm (i : ι) (r : R) :
+      (P.ι.app i).hom (algebraMap R (P.diag.obj i) r) = algebraMap R S r :=
+    (P.ι.app i).hom.commutes r
```
Comment (chrisflav) [inline Proetale/Algebra/IndZariski.lean]: Instead of passing to the category of types, use the API for filtered colimits in concrete categories instead.

**Comment by chrisflav** [comment]
orchestra address review

File: Proetale/Algebra/IndZariski.lean [hunk 3]
```diff
@@ -293,14 +294,133 @@ instance (priority := 100) _root_.Module.Flat.of_indZariski [Algebra.IndZariski
...
+    have heq := congrArg (P.ι.app i).hom he_eq
+    simp only [map_mul, hcomm, hs', hu'] at heq
+    exact heq
+
+end Algebra.BijectiveOnStalks
+
+namespace Algebra.IndZariski
+
 @[stacks 096T]
 theorem bijectiveOnStalks_algebraMap [Algebra.IndZariski R S] :
```
Comment (chrisflav) [inline Proetale/Algebra/IndZariski.lean:297]:
```suggestion
theorem bijectiveOnStalks [Algebra.IndZariski R S] :
```
also update the lean label in the blueprint

File: Proetale/Algebra/IndZariski.lean [hunk 4]
```diff
@@ -293,14 +294,133 @@ instance (priority := 100) _root_.Module.Flat.of_indZariski [Algebra.IndZariski
...
+namespace Algebra.BijectiveOnStalks
+
+/-- If `S` is a filtered colimit of `R`-algebras `Aᵢ` and each `R → Aᵢ` is bijective on
+stalks, then so is `R → S`. -/
+lemma of_colimitPresentation {ι : Type u} [SmallCategory ι] [IsFiltered ι]
+    (P : ColimitPresentation ι (CommAlgCat.of R S))
+    (h : ∀ i, Algebra.BijectiveOnStalks R (P.diag.obj i)) :
+    Algebra.BijectiveOnStalks R S := by
+  refine ⟨fun p hp ↦ ?_⟩
+  have hcomm (i : ι) (r : R) :
```
Comment (chrisflav) [inline Proetale/Algebra/IndZariski.lean]: Show first that the localization of a filtered colimit of rings at a prime ideal is the filtered colimit of the localizations. Then show that the `Localization.localRingHom` map here is induced by the stalk maps on the components. Deduce from this that the map is bijective.

**Comment by chrisflav** [comment]
Show that if `p` is a prime of `R` and `R` is the filtered colimit of rings `R_i`, then the localization of `R` at the prime `p` is isomorphic to the filtered colimit of the localizations of `R_i` at the preimages of `p` in `R_i`.

File: blueprint/src/chapters/local-structure.tex [hunk 5]
```diff
@@ -541,6 +541,7 @@ \section{ind-Zariski maps}
 \end{lemma}
 
 \begin{proof}
+  \leanok
   Omitted.
```
Comment (jjdishere) [inline blueprint/src/chapters/local-structure.tex]: Please write a professional, concise natural language proof according to you formal proof. Don't include and formalization detail here, it should be a pure mathematical proof.

File: Proetale/Algebra/BijectiveOnStalks/ColimitPresentation.lean [hunk 6]
```diff
@@ -0,0 +1,289 @@
...
+namespace Localization.AtPrime
+
+section ColimitPresentation
+
+variable {R S : Type u} [CommRing R] [CommRing S] [Algebra R S]
+variable {ι : Type u} [SmallCategory ι]
+  (P : ColimitPresentation ι (CommAlgCat.of R S))
+
+/-- The contraction of an ideal `p` of the colimit `S` to a constituent `P.diag.obj i`. -/
+noncomputable def colimitPrime (p : Ideal S) (i : ι) : Ideal (P.diag.obj i) :=
```
Comment (jjdishere) [inline Proetale/Algebra/BijectiveOnStalks/ColimitPresentation.lean]: rename this to `contractionIdeal`, also rename all theorem using this definition

File: Proetale/Algebra/BijectiveOnStalks/ColimitPresentation.lean [hunk 7]
```diff
@@ -0,0 +1,289 @@
...
+  p.comap (P.ι.app i).hom.toRingHom
+
+instance (p : Ideal S) [p.IsPrime] (i : ι) : (colimitPrime P p i).IsPrime :=
+  Ideal.IsPrime.comap _
+
+lemma colimitPrime_comap_algebraMap (p : Ideal S) (i : ι) :
+    p.comap (algebraMap R S) =
+      (colimitPrime P p i).comap (algebraMap R (P.diag.obj i)) := by
```
Comment (jjdishere) [inline Proetale/Algebra/BijectiveOnStalks/ColimitPresentation.lean]: revert the direction of this theorem and add `@[simp]`

File: Proetale/Algebra/BijectiveOnStalks/ColimitPresentation.lean [hunk 8]
```diff
@@ -0,0 +1,289 @@
...
+
+variable {R S : Type u} [CommRing R] [CommRing S] [Algebra R S]
+variable {ι : Type u} [SmallCategory ι]
+  (P : ColimitPresentation ι (CommAlgCat.of R S))
+
+/-- The contraction of an ideal `p` of the colimit `S` to a constituent `P.diag.obj i`. -/
+noncomputable def colimitPrime (p : Ideal S) (i : ι) : Ideal (P.diag.obj i) :=
+  p.comap (P.ι.app i).hom.toRingHom
+
+instance (p : Ideal S) [p.IsPrime] (i : ι) : (colimitPrime P p i).IsPrime :=
```
Comment (jjdishere) [inline Proetale/Algebra/BijectiveOnStalks/ColimitPresentation.lean]: give it a name `contractionIdeal.isPrime`

File: Proetale/Algebra/BijectiveOnStalks/ColimitPresentation.lean [hunk 9]
```diff
@@ -0,0 +1,289 @@
...
+lemma colimitPrime_comap_algebraMap (p : Ideal S) (i : ι) :
+    p.comap (algebraMap R S) =
+      (colimitPrime P p i).comap (algebraMap R (P.diag.obj i)) := by
+  ext r
+  simp only [Ideal.mem_comap, colimitPrime,
+    ← ColimitPresentation.ι_app_algebraMap_apply P i r]
+  rfl
+
+lemma colimitPrime_comap_diag (p : Ideal S) {i j : ι} (f : i ⟶ j) :
+    colimitPrime P p i = (colimitPrime P p j).comap (P.diag.map f).hom.toRingHom := by
```
Comment (jjdishere) [inline Proetale/Algebra/BijectiveOnStalks/ColimitPresentation.lean]: revert the direction of this theorem and add `@[simp]`

File: Proetale/Algebra/BijectiveOnStalks/ColimitPresentation.lean [hunk 10]
```diff
@@ -0,0 +1,289 @@
...
+    obtain ⟨⟨r, s, hs⟩, rfl⟩ := IsLocalization.mk'_surjective
+      (colimitPrime P p i).primeCompl x
+    rw [CommRingCat.hom_ofHom, CommRingCat.hom_comp, CommRingCat.hom_ofHom,
+      CommRingCat.hom_ofHom, Localization.localRingHom_mk', RingHom.comp_apply,
+      Localization.localRingHom_mk', Localization.localRingHom_mk']
+    exact congrArg₂ (IsLocalization.mk' _) (P.diag_map_comp_apply f g r)
+      (Subtype.ext (P.diag_map_comp_apply f g s))
+
+@[simp]
+lemma localizationDiag_map_apply {i j : ι} (f : i ⟶ j)
```
Comment (jjdishere) [inline Proetale/Algebra/BijectiveOnStalks/ColimitPresentation.lean]: This lemma should not be @[simp]. 
Why do we even need this?

File: Proetale/Algebra/BijectiveOnStalks/ColimitPresentation.lean [hunk 11]
```diff
@@ -0,0 +1,289 @@
...
+                (IsLocalization.mk' _ r ⟨s, hs⟩)) =
+          (Localization.localRingHom (colimitPrime P p i) p (P.ι.app i).hom.toRingHom rfl)
+            (IsLocalization.mk' _ r ⟨s, hs⟩)
+        rw [Localization.localRingHom_mk', Localization.localRingHom_mk',
+          Localization.localRingHom_mk']
+        exact congrArg₂ (IsLocalization.mk' _)
+          (ColimitPresentation.ι_app_diag_map_apply P f r)
+          (Subtype.ext (ColimitPresentation.ι_app_diag_map_apply P f s)) }
+
+@[simp]
```
Comment (jjdishere) [inline Proetale/Algebra/BijectiveOnStalks/ColimitPresentation.lean]: no @[simp] here

File: blueprint/src/chapters/local-structure.tex (hunk 5 above)
Comment (jjdishere) [reply blueprint/src/chapters/local-structure.tex]: Don't use formal notations.

File: Proetale/Algebra/BijectiveOnStalks/ColimitPresentation.lean [hunk 12]
```diff
@@ -0,0 +1,289 @@
...
+lemma localizationCocone_ι_app_apply (i : ι) (x : Localization.AtPrime (colimitPrime P p i)) :
+    ((localizationCocone P p).ι.app i).hom x =
+      Localization.localRingHom (colimitPrime P p i) p (P.ι.app i).hom.toRingHom rfl x :=
+  rfl
+
+variable [IsFiltered ι]
+
+/-- Every element of `Localization.AtPrime p` lifts to an element of
+`Localization.AtPrime (colimitPrime P p i)` for some `i : ι`. -/
+private lemma exists_localRingHom_eq (z : Localization.AtPrime p) :
```
Comment (jjdishere) [inline Proetale/Algebra/BijectiveOnStalks/ColimitPresentation.lean]: remove private

File: Proetale/Algebra/BijectiveOnStalks/ColimitPresentation.lean [hunk 13]
```diff
@@ -0,0 +1,289 @@
...
+    (ColimitPresentation.ι_app_diag_map_apply P (IsFiltered.rightToMax i₁ i₂) u₀).trans hu₀
+  have hu'_mem : u' ∈ (colimitPrime P p i).primeCompl := fun hmem ↦ hu (hu' ▸ hmem)
+  refine ⟨i, IsLocalization.mk' _ s' ⟨u', hu'_mem⟩, ?_⟩
+  rw [Localization.localRingHom_mk']
+  exact congrArg₂ (IsLocalization.mk' _) hs' (Subtype.ext hu')
+
+/-- If two elements of `Localization.AtPrime (p.comap (algebraMap R S))` have equal images in
+`Localization.AtPrime p`, they have equal images in `Localization.AtPrime (colimitPrime P p j)`
+for some `j : ι`. -/
+private lemma exists_localRingHom_eq_of_localRingHom_eq
```
Comment (jjdishere) [inline Proetale/Algebra/BijectiveOnStalks/ColimitPresentation.lean]: remove private

**Comment by jjdishere** [comment]
orchestra address review

**Comment by jjdishere** [comment]
Please check and fix documentation build.

File: Proetale/Mathlib/Algebra/Category/CommAlgCat/Limits.lean [hunk 14]
```diff
@@ -266,6 +267,36 @@ end Pi
...
 end CommAlgCat
 
+namespace CategoryTheory.Limits.ColimitPresentation
+
+variable {R : Type u} [CommRing R] {X : CommAlgCat.{u} R}
+variable {ι : Type u} [SmallCategory ι]
+
+/-- For a colimit presentation in `CommAlgCat R`, the colimit injection at the target composed
+with the diagram map equals the colimit injection at the source. -/
+lemma ι_app_diag_map_apply (P : ColimitPresentation ι X) {i j : ι} (f : i ⟶ j) (x : P.diag.obj i) :
```
Comment (jjdishere) [inline Proetale/Mathlib/Algebra/Category/CommAlgCat/Limits.lean:278]: add @[simp] to this lemma

File: Proetale/Mathlib/Algebra/Category/CommAlgCat/Limits.lean [hunk 15]
```diff
@@ -266,6 +267,36 @@ end Pi
...
+    (P.ι.app j).hom ((P.diag.map f).hom x) = (P.ι.app i).hom x :=
+  DFunLike.congr_fun (congrArg CommAlgCat.Hom.hom (P.w f)) x
+
+@[simp]
```
Comment (jjdishere) [inline Proetale/Mathlib/Algebra/Category/CommAlgCat/Limits.lean]: check whether this lemma is already included in `ι_app_diag_map_apply`, if so, remove @[simp]

File: Proetale/Mathlib/Algebra/Category/CommAlgCat/Limits.lean [hunk 16]
```diff
@@ -266,6 +267,36 @@ end Pi
...
+  DFunLike.congr_fun (congrArg CommAlgCat.Hom.hom (P.diag.map_id i)) x
+
+lemma diag_map_comp_apply (P : ColimitPresentation ι X) {i j k : ι} (f : i ⟶ j) (g : j ⟶ k)
+    (x : P.diag.obj i) :
+    (P.diag.map (f ≫ g)).hom x = (P.diag.map g).hom ((P.diag.map f).hom x) :=
+  DFunLike.congr_fun (congrArg CommAlgCat.Hom.hom (P.diag.map_comp f g)) x
+
+variable {S : Type u} [CommRing S] [Algebra R S] in
+/-- For a colimit presentation of `S` as a colimit of `R`-algebras, the colimit injection
+commutes with the `R`-algebra structure map. -/
```
Comment (jjdishere) [inline Proetale/Mathlib/Algebra/Category/CommAlgCat/Limits.lean]: "colimit injection commutes" is vague.

File: Proetale/Algebra/BijectiveOnStalks/ColimitPresentation.lean [hunk 17]
```diff
@@ -0,0 +1,285 @@
...
+      (P.diag.map fij).hom
+        (c' * (algebraMap R (P.diag.obj i₀) s₂ * algebraMap R (P.diag.obj i₀) r₁)) =
+      (P.diag.map fij).hom
+        (c' * (algebraMap R (P.diag.obj i₀) s₁ * algebraMap R (P.diag.obj i₀) r₂)) := hjeq
+  simpa only [map_mul, AlgHom.commutes] using hjeq'
+
+/-- If two elements of `Localization.AtPrime (contractionIdeal P p i)` have equal images in
+`Localization.AtPrime p`, they become equal in `Localization.AtPrime (contractionIdeal P p k)` for
+some morphism `i ⟶ k`. -/
+private lemma exists_localizationDiag_map_eq (i : ι)
```
Comment (jjdishere) [inline Proetale/Algebra/BijectiveOnStalks/ColimitPresentation.lean]: remove private

**Comment by jjdishere** [comment]
orchestra address review

**Comment by jjdishere** [comment]
merge master.

**Comment by jjdishere** [comment]
orchestra address review
